US07022724B2
b) 3-(5-Methyl-3-phenylisoxazol-4-yl)-8-(1-methyl[1,2,4]triazol-3-ylmethoxy)-5H-[1,2,4]triazolo[3,4-a]isoindole
3-(5-Methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindol-8-ol (35 mg) and potassium carbonate (30 mg) and 5-(chloromethyl)-2-methyltriazole were heated together with DMF (1 ml) at 120° C. for 2 hours. The reaction was diluted with water and extracted with ethyl acetate. The organic layer was washed with water (×5), dried and evaporated to yield an oil which was purified by column chromatography on silica using methanol/dichloromethane to yield the title compound (7.8 mg).

reactant | 3-(5-Methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindol-8-ol | 35 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C2N1CC1=CC=C(C=C21)O | C19H14N4O2
reactant | potassium carbonate | 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(chloromethyl)-2-methyltriazole | ClCC=1C=NN(N1)C | C4H6ClN3
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(5-Methyl-3-phenylisoxazol-4-yl)-8-(1-methyl[1,2,4]triazol-3-ylmethoxy)-5H-[1,2,4]triazolo[3,4-a]isoindole | 7.8 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C2N1CC1=CC=C(C=C21)OCC2=NN(C=N2)C | C23H19N7O2
